US04540692
A mixture of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (0.36 g) and 2-amino-5-methoxy-2,4,6-cycloheptatrien-1-one (0.20 g) in xylene (9 ml) was refluxed for 40 hours. The reaction mixture was cooled to room temperature. The crystals were collected by filtration and washed with xylene to give 4-hydroxy-N-(5-methoxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.45 g).

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 0.36 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-5-methoxy-2,4,6-cycloheptatrien-1-one | 0.20 g | NC=1C(C=CC(=CC1)OC)=O | C8H9NO2
solvent | xylene | 9 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-N-(5-methoxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.45 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C=CC(=CC2)OC)=O | C18H16N2O6S
